### PR TITLE
[Merged by Bors] - feat(Meta/CategoryTheory): `cancelIso` simproc

### PR DESCRIPTION
**Pull request by robin-carlier**
In this PR, we define a `cancelIso` simplification procedure.

The scope of the procedure is to recognize compositions of the form `f ≫ g` or `f ≫ g ≫ h` where `g` is inverse to `f`, and cancel them accordingly.

This is particularly useful as more often than not, simp normal forms for isomorphisms do not easily make inverse pairs recognizable: `F.map (G.map (H.map e.hom))) ≫ F.map (G.map (H.map e.inv)))` is an expression in `simp`normal form, but using `Iso.hom_inv_id` requires backwards rewriting of `Functor.map_comp`.
Because of this, many _ad hoc_ lemmas handling this pattern were added to the library, e.g `CategoryTheory.Iso.inv_hom_id_app_app_app`, `CategoryTheory.MonoidalCategory.hom_inv_whiskerRight`, etc.

This simproc is an attempt at lessening the need for new extra lemmas of this form.

The core working of the simproc is as follows:
1. When encountering a composition `f ≫ g`, check if the target of `g` is the source of `f`
2. If so, try to synth an `IsIso` instance on `f` (in all the patterns mentioned above, such instances are available). Do nothing and return if there is no such instance.
4. Run `push inv` on both `inv f` and `g`, putting them in "inv-normal form" and compare the results. If they match, build (using the proofs provided by `push`) a proof of `f ≫ g = 𝟙 _`, and return it as the result of the procedure.

In practice, the case where `g` itself is a composition is handled on its own, allowing the simproc to correctly fire on right-associated compositions (which are the chosen simp normal forms in category theory).

Because this simproc relies on `push`, it is naturally extensible by mean of rigorous `@[push]` annotations within the library.

:robot: Tests were initially generated by Gemini.

---

While the particular problem that this simproc solves might intersect with the capabilities of grind, I believe it is an useful thing
to have. In my experience, the place where its absence is most annoying is when carrying computation-heavy proofs in bicategory theory, where I’ve encountered terms of the form `A ◁ B ◁ C ◁ D ◁ e.inv ▷ E ▷ F ▷ G ▷ H ≫ A ◁ B ◁ C ◁ D ◁ e.hom ▷ E ▷ F ▷ G ▷ H `, where `A, B, C` etc might have long names: doing `show ... = 𝟙 _ by grind` to cancel them manually would be very long.

This has also value for goals grind is not currently solving due to lack of annotations, but whose simp normal forms make such terms appear.

In the future, I think the infrastructure of this simproc might give a nice backend towards a cleaner implementation of the `rotate_iso%` elaborator I proposed in #25747, making it natively extensible via `@[push]` annotations. 

- [x] depends on: #33820

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Tactic/CategoryTheory/CancelIso.lean [hunk 1]
```diff
@@ -0,0 +1,125 @@
...
+This procedure is mostly intended as a post-procedure: it will work better if `f` and `g`
+have already been traversed beforehand. -/
+def cancelIsoSimproc : Simp.Simproc := fun e => withReducible do -- is withReducible necessary here?
+  let e_whnf ← whnf e
+  let_expr CategoryStruct.comp C instCat x y t f g := e_whnf | return .continue
+  match_expr g with
+  -- Right_associated expressions needs their own logic.
+  | CategoryStruct.comp _ _ _ z _ g h =>
+    -- Can’t expect a cancelation if the objects don’t match
+    unless z == x do return .continue
```
Comment (plp127) [inline Mathlib/Tactic/CategoryTheory/CancelIso.lean]: Can this be a reducible defeq test instead?

Comment (robin-carlier) [reply Mathlib/Tactic/CategoryTheory/CancelIso.lean]: An `← isDefEq z x` would be a reducible test as I wrapped everything in a `withReducible` at the top right? (I commited that, feel free to resolve if that’s the case)

Comment (plp127) [reply Mathlib/Tactic/CategoryTheory/CancelIso.lean]: Should we use `isDefEqGuarded` instead? (edit: that would make it silently fail so I guess not?)

Comment (plp127) [reply Mathlib/Tactic/CategoryTheory/CancelIso.lean]: (btw I don't have a "resolve conversation" button on my end)

Comment (robin-carlier) [reply Mathlib/Tactic/CategoryTheory/CancelIso.lean]: Looked a bit at what exactly the `withReducible` at the beginning does and I think it should apply to the defeq tests and the whnf I run in the implementation here, so I’ll resolve, thanks for the comment!

File: Mathlib/Tactic/CategoryTheory/CancelIso.lean [hunk 2]
```diff
@@ -0,0 +1,125 @@
...
+have already been traversed beforehand.
+
+-/
+
+public meta section
+open Lean Meta CategoryTheory
+
+namespace Mathlib.Tactic.CategoryTheory.CancelIso
+
+/-- Version of `IsIso.hom_inv_id` for internal use of the `cancelIso` simproc. Do not use. -/
```
Comment (JovanGerb) [inline Mathlib/Tactic/CategoryTheory/CancelIso.lean:41]:
```suggestion
/-- Version of `IsIso.inv_hom_id` for internal use of the `cancelIso` simproc. Do not use. -/
```

File: Mathlib/Tactic/CategoryTheory/CancelIso.lean [hunk 3]
```diff
@@ -0,0 +1,125 @@
...
+lemma hom_inv_id_of_eq {C : Type*} [Category* C] {x y : C}
+    (f : x ⟶ y) [IsIso f] (g : y ⟶ x) (h : inv f = g) : f ≫ g = 𝟙 _ := by
+  rw [← h]
+  exact IsIso.hom_inv_id f
+
+/-- Version of `IsIso.hom_inv_id_assoc` for internal use of the `cancelIso` simproc. Do not use. -/
```
Comment (JovanGerb) [inline Mathlib/Tactic/CategoryTheory/CancelIso.lean:47]:
```suggestion
/-- Version of `IsIso.inv_hom_id_assoc ` for internal use of the `cancelIso` simproc. Do not use. -/
```

File: Mathlib/Tactic/CategoryTheory/CancelIso.lean [hunk 4]
```diff
@@ -0,0 +1,125 @@
...
+  -- Otherwise, same logic but with hom_inv_id_of_eq instead of hom_inv_id_of_eq_assoc
+  | _ =>
+    unless ← isDefEq t x do return .continue
+    let some inst ← synthInstance? <| ← mkAppM ``IsIso #[f] | return .continue
+    let inv_f ← mkAppOptM ``CategoryTheory.inv #[none, none, none, none, f, inst]
+    let pushed_inv ← Mathlib.Tactic.Push.pushCore (.const ``CategoryTheory.inv) {} none inv_f
+    let pushed_g ← Mathlib.Tactic.Push.pushCore (.const ``CategoryTheory.inv) {} none g
+    unless ← isDefEq pushed_inv.expr pushed_g.expr do return .continue
+    let p₀ ← mkEqTrans (pushed_inv.proof?.getD (← mkEqRefl inv_f))
+      (← mkEqSymm <| pushed_g.proof?.getD (← mkEqRefl g))
```
Comment (JovanGerb) [inline Mathlib/Tactic/CategoryTheory/CancelIso.lean]:
```suggestion
    let p₀ ← mkEqTrans (← pushed_inv.proof?.getDM (mkEqRefl inv_f))
      (← mkEqSymm <| ← pushed_g.proof?.getDM (mkEqRefl g))
```
This way, `mkEqRefl` will only get called if necessary (similarly above)

File: Mathlib/Tactic/CategoryTheory/CancelIso.lean [hunk 5]
```diff
@@ -0,0 +1,125 @@
...
+
+For instance, the simproc will successfully rewrite expressions such as
+`F.map (G.map (inv (H.map (e.hom)))) ≫ F.map (G.map (H.map (e.inv)))` to `𝟙 _`
+because `CategoyTheory.Functor.map_inv` is a `@[push ←]` lemma, and
+`CategoyTheory.IsIso.Iso.inv_hom` is a `[push]` lemma.
+
+This procedure is mostly intended as a post-procedure: it will work better if `f` and `g`
+have already been traversed beforehand. -/
+def cancelIsoSimproc : Simp.Simproc := fun e => withReducible do -- is withReducible necessary here?
+  let e_whnf ← whnf e
```
Comment (JovanGerb) [inline Mathlib/Tactic/CategoryTheory/CancelIso.lean]: Is there a reason why you use `whnf` on `e`, and not on `g`? I think it is unnecessary to use `whnf` on either.

File: Mathlib/Tactic/CategoryTheory/CancelIso.lean [hunk 6]
```diff
@@ -0,0 +1,125 @@
...
+    let pushed_inv ← Mathlib.Tactic.Push.pushCore (.const ``CategoryTheory.inv) {} none inv_f
+    let pushed_g ← Mathlib.Tactic.Push.pushCore (.const ``CategoryTheory.inv) {} none g
+    -- Check if the "inv"-normal forms match
+    unless ← isDefEq pushed_inv.expr pushed_g.expr do return .continue
+    -- Builds the proof inv f = g first:
+    let p₀ ← mkEqTrans (pushed_inv.proof?.getD (← mkEqRefl inv_f))
+      (← mkEqSymm <| pushed_g.proof?.getD (← mkEqRefl g))
+    -- Builds the proof that `f ≫ g ≫ h = h.
+    let P ← mkAppOptM ``hom_inv_id_of_eq_assoc #[C, none, x, y, f, inst, g, p₀, none, h]
+    return .done (.mk h (.some P) false)
```
Comment (JovanGerb) [inline Mathlib/Tactic/CategoryTheory/CancelIso.lean]:
```suggestion
    return .done { expr := h, proof? := P }
```
This is the preferred notation. (similarly below)

File: Mathlib/Tactic/CategoryTheory/CancelIso.lean (hunk 4 above)
Comment (JovanGerb) [inline Mathlib/Tactic/CategoryTheory/CancelIso.lean]: I think this code could be abstracted into a separate `let` or `def` to remove some code duplication.

File: Mathlib/Tactic/CategoryTheory/CancelIso.lean [hunk 7]
```diff
@@ -0,0 +1,125 @@
...
+This is useful as simp-normal forms in category theory are right-associated.
+
+For instance, the simproc will successfully rewrite expressions such as
+`F.map (G.map (inv (H.map (e.hom)))) ≫ F.map (G.map (H.map (e.inv)))` to `𝟙 _`
+because `CategoyTheory.Functor.map_inv` is a `@[push ←]` lemma, and
+`CategoyTheory.IsIso.Iso.inv_hom` is a `[push]` lemma.
+
+This procedure is mostly intended as a post-procedure: it will work better if `f` and `g`
+have already been traversed beforehand. -/
+def cancelIsoSimproc : Simp.Simproc := fun e => withReducible do -- is withReducible necessary here?
```
Comment (JovanGerb) [inline Mathlib/Tactic/CategoryTheory/CancelIso.lean]: We do indeed want to run the below `isDefEq` (and `whnf`) in the `reducible` transparency. But `simp` already sets it to `reducible`, so it is not necessary to use `withReducible` here.

File: Mathlib/Tactic/CategoryTheory/CancelIso.lean [hunk 8]
```diff
@@ -0,0 +1,125 @@
...
+  let_expr CategoryStruct.comp C instCat x y t f g := e_whnf | return .continue
+  match_expr g with
+  -- Right_associated expressions needs their own logic.
+  | CategoryStruct.comp _ _ _ z _ g h =>
+    -- Can’t expect a cancelation if the objects don’t match
+    unless ← isDefEq z x do return .continue
+    -- Can’t expect a cancellation if `f` is not an iso.
+    let some inst ← synthInstance? <| ← mkAppM ``IsIso #[f] | return .continue
+    -- Run `push`
+    let inv_f ← mkAppOptM ``CategoryTheory.inv #[none, none, none, none, f, inst]
```
Comment (JovanGerb) [inline Mathlib/Tactic/CategoryTheory/CancelIso.lean]:
```suggestion
    let inv_f ← try
      mkAppOptM ``CategoryTheory.inv #[C, none, x, y, f, none] catch _ => return .continue
    -- Run `push`
```
You can shorten the code by making the synthesis of `IsIso` implicit in the `mkAppOptM`.

This change also fixes two minor issues with the previous implementation. The first is that it used `synthInstance?` instead of `trySynthInstance`. This doesn't catch the error of type class synthesis being stuck:
```
example {C : Type*} [Category* C] {X Y : C} [∀ f : X ⟶ Y, IsIso f] : False := by
  have (f : X ⟶ ?_) (g) : f ≫ g = 𝟙 _ := by
    simp only [cancelIso] -- internal exception: isDefEqStuck
```
The other issue is that there would be an error if there is only a `CategoryStruct` instance and not a `Category` instance. Could you add a test for both of these problems in the test file?

File: Mathlib/Tactic/CategoryTheory/CancelIso.lean [hunk 9]
```diff
@@ -0,0 +1,125 @@
...
+    let pushed_inv ← Mathlib.Tactic.Push.pushCore (.const ``CategoryTheory.inv) {} none inv_f
+    let pushed_g ← Mathlib.Tactic.Push.pushCore (.const ``CategoryTheory.inv) {} none g
+    -- Check if the "inv"-normal forms match
+    unless ← isDefEq pushed_inv.expr pushed_g.expr do return .continue
+    -- Builds the proof inv f = g first:
+    let p₀ ← mkEqTrans (pushed_inv.proof?.getD (← mkEqRefl inv_f))
+      (← mkEqSymm <| pushed_g.proof?.getD (← mkEqRefl g))
+    -- Builds the proof that `f ≫ g ≫ h = h.
+    let P ← mkAppOptM ``hom_inv_id_of_eq_assoc #[C, none, x, y, f, inst, g, p₀, none, h]
```
Comment (JovanGerb) [inline Mathlib/Tactic/CategoryTheory/CancelIso.lean]:
```suggestion
    let P ← mkAppOptM ``hom_inv_id_of_eq_assoc #[C, none, x, y, f, none, g, p₀, none, h]
```
Type class search results are cached, so it's no big deal that this now needs to be implicit.

File: Mathlib/Tactic/CategoryTheory/CancelIso.lean [hunk 10]
```diff
@@ -0,0 +1,125 @@
...
+
+/-- The `cancelIso` simproc triggers on expressions of the form `f ≫ g`.
+
+If `g` is not a composition itself, it checks whether `f` is inverse to `g`
+by checking if `f` has an `IsIso` instance and then by running `push inv` on `inv f` and on `g`.
+If the check succeeds, then `f ≫ g` is rewritten to `𝟙 _`.
+
+The procedure handles the case of an expression of the `g = h ≫ k` as a special case, in this case,
+the procedure checks if `f` and `h` are inverses to each other, and the procedure rewrites
+`f ≫ g ≫ h` to `h` if that is the case.
```
Comment (JovanGerb) [inline Mathlib/Tactic/CategoryTheory/CancelIso.lean]:
```suggestion
If `g` is of the form `h ≫ k`, the procedure instead checks if `f` and `h` are inverses to each
other, and the procedure rewrites `f ≫ g ≫ h` to `h` if that is the case.
```

File: Mathlib/Tactic/CategoryTheory/CancelIso.lean [hunk 11]
```diff
@@ -0,0 +1,125 @@
...
+    let pushed_g ← Mathlib.Tactic.Push.pushCore (.const ``CategoryTheory.inv) {} none g
+    unless ← isDefEq pushed_inv.expr pushed_g.expr do return .continue
+    let p₀ ← mkEqTrans (pushed_inv.proof?.getD (← mkEqRefl inv_f))
+      (← mkEqSymm <| pushed_g.proof?.getD (← mkEqRefl g))
+    let P ← mkAppOptM ``hom_inv_id_of_eq #[C, none, x, y, f, inst, g, p₀]
+    return .done (.mk (← mkAppOptM ``CategoryStruct.id #[C, instCat, x]) (.some P) false)
+
+end Mathlib.Tactic.CategoryTheory.CancelIso
+
+/-- The `cancelIso` simproc triggers on expressions of the form `f ≫ g`.
```
Comment (JovanGerb) [inline Mathlib/Tactic/CategoryTheory/CancelIso.lean]: To avoid writing the same docstring twice, you can use `@[inherit_doc cancelIsoSimproc]` here

File: Mathlib/Tactic/CategoryTheory/CancelIso.lean [hunk 12]
```diff
@@ -0,0 +1,125 @@
+/-
+Copyright (c) 2026 Robin Carlier. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Robin Carlier
+-/
+module
+
+public meta import Mathlib.Tactic.Push
```
Comment (JovanGerb) [inline Mathlib/Tactic/CategoryTheory/CancelIso.lean]:
```suggestion
public import Mathlib.Tactic.Push
```
`Push.pushCore` is already a `meta def`, so we don't need a `meta` in the import.

**Review by JovanGerb — APPROVED** [review]
I'm really glad that the `push` tactic could come in handy here!

It would be nice if this simproc could be turned on globally. Can you do this and the use `!bench` to see what the performance implications are?

File: Mathlib/Tactic/CategoryTheory/CancelIso.lean (hunk 2 above)
Comment (robin-carlier) [reply Mathlib/Tactic/CategoryTheory/CancelIso.lean:41]: I think this one is correct? [IsIso.inv_hom_id](https://leanprover-community.github.io/mathlib4_docs/Mathlib/CategoryTheory/Iso.html#CategoryTheory.IsIso.inv_hom_id) is `inv f ≫ f = 𝟙 _`, and here up to substitution of `g` we have `f ≫ inv f = 𝟙 _`, which is [IsIso.hom_inv_id](https://leanprover-community.github.io/mathlib4_docs/Mathlib/CategoryTheory/Iso.html#CategoryTheory.IsIso.hom_inv_id)

File: Mathlib/Tactic/CategoryTheory/CancelIso.lean (hunk 7 above)
Comment (robin-carlier) [reply Mathlib/Tactic/CategoryTheory/CancelIso.lean]: Thanks for conforming this. I had a hunch that was the case but wanted to be safe. I’ll remove this then.

File: Mathlib/Tactic/CategoryTheory/CancelIso.lean (hunk 11 above)
Comment (robin-carlier) [reply Mathlib/Tactic/CategoryTheory/CancelIso.lean]: I tried this, but it looks like @[inherit_doc] is unhappy being applied to a simproc declaration:
```lean
@[inherit_doc cancelIsoSimproc]
simproc_decl cancelIso (CategoryStruct.comp (self := ?x) _ _) :=
  Mathlib.Tactic.CategoryTheory.CancelIso.cancelIsoSimproc
```
gives
`unexpected token 'simproc_decl'; expected 'lemma'`.

File: Mathlib/Tactic/CategoryTheory/CancelIso.lean (hunk 5 above)
Comment (robin-carlier) [reply Mathlib/Tactic/CategoryTheory/CancelIso.lean]: As I am mostly a metaprogramming noob, I put "just to be sure", but indeed the tests pass just fine without this.

File: Mathlib/Tactic/CategoryTheory/CancelIso.lean (hunk 8 above)
Comment (robin-carlier) [reply Mathlib/Tactic/CategoryTheory/CancelIso.lean]: Thanks for the catch!

**Comment by leanprover-radar** [comment]
Benchmarking fdbd90c237b17332b6b5b1489b9dd0cdf7e6a520 ([status](https://radar.lean-lang.org/repos/mathlib4/commits/fdbd90c237b17332b6b5b1489b9dd0cdf7e6a520)) against 80732f7660133e80dc57657649e7e09584749454 ([status](https://radar.lean-lang.org/repos/mathlib4/commits/80732f7660133e80dc57657649e7e09584749454)).

<sub>React with :eyes: to be notified when the results are in. The command author is always notified.</sub>

File: Mathlib/Tactic/CategoryTheory/CancelIso.lean (hunk 11 above)
Comment (JovanGerb) [reply Mathlib/Tactic/CategoryTheory/CancelIso.lean]: Ah, that's annoying. You can also do this with a separate command `attribute [inherit_doc Mathlib.Tactic.CategoryTheory.CancelIso.cancelIsoSimproc] cancelIso`

File: Mathlib/Tactic/CategoryTheory/CancelIso.lean [hunk 13]
```diff
@@ -48,15 +48,37 @@ lemma hom_inv_id_of_eq_assoc {C : Type*} [Category* C] {x y : C}
   rw [← h]
   exact IsIso.hom_inv_id_assoc f k
 
+/-- Given expressions `C x y z f g` assumed to represent
+composable morphisms `f : x ⟶ _` and `g : _ ⟶ z` in a category `C`,
```
Comment (JovanGerb) [inline Mathlib/Tactic/CategoryTheory/CancelIso.lean]:
```suggestion
composable morphisms `f : x ⟶ y` and `g : y ⟶ z` in a category `C`,
```
right?

File: Mathlib/Tactic/CategoryTheory/CancelIso.lean [hunk 14]
```diff
@@ -48,15 +48,37 @@ lemma hom_inv_id_of_eq_assoc {C : Type*} [Category* C] {x y : C}
...
+check if `g` is equal to the inverse of `f` by
+1. first checking the objects match (i.e x = z).
+2. Checking that `f` is an isomorphism by synthesizing an `IsIso` instance for it
+3. running `push inv` on both `f` and `g`, and checking that the results are equal.
+
+If they are inverse, return an expression `e` of the proof of `inv f = g`. If any of
```
Comment (JovanGerb) [inline Mathlib/Tactic/CategoryTheory/CancelIso.lean]:
```suggestion
If they are inverse, return a proof of `inv f = g`. If any of
```

File: Mathlib/Tactic/CategoryTheory/CancelIso.lean [hunk 15]
```diff
@@ -66,40 +88,20 @@ because `CategoyTheory.Functor.map_inv` is a `@[push ←]` lemma, and
 
 This procedure is mostly intended as a post-procedure: it will work better if `f` and `g`
 have already been traversed beforehand. -/
-def cancelIsoSimproc : Simp.Simproc := fun e => withReducible do -- is withReducible necessary here?
-  let e_whnf ← whnf e
-  let_expr CategoryStruct.comp C instCat x y t f g := e_whnf | return .continue
+def cancelIsoSimproc : Simp.Simproc := fun e => do -- is withReducible necessary here?
```
Comment (JovanGerb) [inline Mathlib/Tactic/CategoryTheory/CancelIso.lean]:
```suggestion
def cancelIsoSimproc : Simp.Simproc := fun e => do
```

File: Mathlib/Tactic/CategoryTheory/CancelIso.lean [hunk 16]
```diff
@@ -48,15 +48,37 @@ lemma hom_inv_id_of_eq_assoc {C : Type*} [Category* C] {x y : C}
...
+3. running `push inv` on both `f` and `g`, and checking that the results are equal.
+
+If they are inverse, return an expression `e` of the proof of `inv f = g`. If any of
+the tests above fail, return none. -/
+def tryCancelPair (C x y z f g : Expr) : MetaM (Option Expr) := do
+  -- Check the objects match
+  unless ← isDefEq z x do return none
+  -- Run `push` on both sides.
+  let inv_f ← try mkAppOptM ``CategoryTheory.inv #[C, none, x, y, f, none] catch _ => return none
+  let pushed_inv ← Mathlib.Tactic.Push.pushCore (.const ``CategoryTheory.inv) {} none inv_f
```
Comment (JovanGerb) [inline Mathlib/Tactic/CategoryTheory/CancelIso.lean]:
```suggestion
  let pushed_inv ← Push.pushCore (.const ``CategoryTheory.inv) {} none inv_f
```

File: Mathlib/Tactic/CategoryTheory/CancelIso.lean [hunk 17]
```diff
@@ -48,15 +48,37 @@ lemma hom_inv_id_of_eq_assoc {C : Type*} [Category* C] {x y : C}
...
+  let pushed_g ← Mathlib.Tactic.Push.pushCore (.const ``CategoryTheory.inv) {} none g
```
Comment (JovanGerb) [inline Mathlib/Tactic/CategoryTheory/CancelIso.lean]:
```suggestion
  let pushed_g ← Push.pushCore (.const ``CategoryTheory.inv) {} none g
```

File: Mathlib/Tactic/CategoryTheory/CancelIso.lean [hunk 18]
```diff
@@ -48,15 +48,37 @@ lemma hom_inv_id_of_eq_assoc {C : Type*} [Category* C] {x y : C}
...
+  -- Check if the "inv"-normal forms match
+  unless ← isDefEq pushed_inv.expr pushed_g.expr do return none
+  -- builds and return the proof of `inv f = g`.
+  return ← mkEqTrans
+    (← pushed_inv.proof?.getDM (mkEqRefl inv_f))
+    (← mkEqSymm <| ← pushed_g.proof?.getDM (mkEqRefl g))
```
Comment (JovanGerb) [inline Mathlib/Tactic/CategoryTheory/CancelIso.lean]:
```suggestion
    (← (← pushed_g.proof?.mapM mkEqSymm).getDM (mkEqRefl g))
```
This way, we avoid running `mkEqSymm` on the `rfl` proof.

File: Mathlib/CategoryTheory/NatIso.lean [hunk 19]
```diff
@@ -7,6 +7,7 @@ module
 
 public import Mathlib.CategoryTheory.Functor.Category
 public import Mathlib.CategoryTheory.Iso
```
Comment (JovanGerb) [inline Mathlib/CategoryTheory/NatIso.lean]:
```suggestion
```
This import should now be redundant

**Comment by robin-carlier** [comment]
Looks like the simproc is very unhappy with `simpa` call where the `using` contains compositions. I’ll try to debug this (and add tests for this when it’s done).

**Comment by robin-carlier** [comment]
So it seems the build failures were caused by the `isDefEq` checks where the implicit assignment of metavariables would cause issues when `simpa` was fed lemmas full of MVars.

I wrapped them in a `withNewMCtxDepth` (as the docstring of `isDefEq` suggests) and now it builds just fine (except for one failure in two simpa call that were expected because the `using` was buit out of `inv_hom_id`. I simply put a `-cancelIso` for the two.), I am simply unsure wether or not this is the idiomatic fix or not, but I’ll leave this to your experts eyes. I wrote a test case for this that would fail before and succeeds after adding this `withNewMCtxDepth`.

**Comment by robin-carlier** [comment]
The remaining failing simpa are what should be `[push <-]` lemmas (I’d rather not annotate within this PR, and do an other round of annotation later if that’s fine), so I think it’s expected that the entire lemma isn’t solvable by the simproc yet.
(i wrote the file in which they are, and really I don’t understand why I went with simpa over `simp [← comp_fst]` or `simp [← comp_snd] ` anyway... I’ll clean this up when annotating.)

**Comment by robin-carlier** [comment]
You mean matching the expression for the `CategoryStruct` instance with a `Category.toCategoryStruct`?
Is there no way this would cause problem if instead it wants to match it with `Category.1`? (I remember being bitten by the subtleties with projections notations vs actual projections in Expr when writing rotate_isos, but I may very well be confused)

**Comment by robin-carlier** [comment]
Ok, I will look into implementing this.

Regarding benchmark, I investigated and benchmarked a little on my side and it seems the awful performances on that `Mathlib.CategoryTheory.Monoidal.Closed.FunctorCategory.Groupoid` file is the simproc amplifying the fact that yet again universe-level MVars have awful perfs: the following 

```diff
diff --git a/Mathlib/CategoryTheory/Monoidal/Closed/FunctorCategory/Groupoid.lean b/Mathlib/CategoryTheory/Monoidal/Closed/FunctorCategory/Groupoid.lean
index 49965c6ef30..2b7bbb99b27 100644
--- a/Mathlib/CategoryTheory/Monoidal/Closed/FunctorCategory/Groupoid.lean
+++ b/Mathlib/CategoryTheory/Monoidal/Closed/FunctorCategory/Groupoid.lean
@@ -17,6 +17,7 @@ public import Mathlib.CategoryTheory.Monoidal.FunctorCategory
 
 @[expose] public section
 
+universe v
 
 noncomputable section
 
@@ -24,7 +25,7 @@ open CategoryTheory CategoryTheory.MonoidalCategory CategoryTheory.MonoidalClose
 
 namespace CategoryTheory.Functor
 
-variable {D C : Type*} [Groupoid D] [Category* C] [MonoidalCategory C] [MonoidalClosed C]
+variable {D C : Type*} [Groupoid.{v} D] [Category* C] [MonoidalCategory C] [MonoidalClosed C]
 
 /-- Auxiliary definition for `CategoryTheory.Functor.closed`.
 The internal hom functor `F ⟶[C] -` -/
```

gives me a huge speedup on my machine (in fact, with that _and_ the simproc on, it is still faster than it is on master).

The net overall effect of the simproc is still slightly negative though (I guess that’s to be expected).

I’ll add this universe fix for now, and see if cutting the corner on typeclass synthesis gives some speedup.

**Comment by robin-carlier** [comment]
[a9561f5](https://github.com/leanprover-community/mathlib4/pull/33822/commits/a9561f5ceb987963957d3735ba097d43764d23be) is a fix for an error about a bad instance that appeared when raising the priority, it’ll be in its own PR (and cleaned up) later, but I’m leaving it here for the time being so that we can get a benchmark with the simproc on and the raised priority.

**Comment by robin-carlier** [comment]
!bench

File: Mathlib/Tactic/CategoryTheory/CancelIso.lean [hunk 20]
```diff
@@ -0,0 +1,112 @@
...
+    let P ← mkAppOptM ``hom_inv_id_of_eq #[C, none, x, y, f, none, g, p₀]
+    return .done {expr := ← mkAppOptM ``CategoryStruct.id #[C, instCat, x], proof? := P}
+
+end Mathlib.Tactic.CategoryTheory.CancelIso
+
+simproc cancelIso (CategoryStruct.comp (self := _) _ _) :=
+  Mathlib.Tactic.CategoryTheory.CancelIso.cancelIsoSimproc
+
+-- We can’t @[inherit_doc] directly on the simproc command.
+attribute [inherit_doc Mathlib.Tactic.CategoryTheory.CancelIso.cancelIsoSimproc] cancelIso
```
Comment (JovanGerb) [inline Mathlib/Tactic/CategoryTheory/CancelIso.lean]:
```suggestion
simproc _root_.cancelIso (CategoryStruct.comp (self := _) _ _) := cancelIsoSimproc

-- We can’t @[inherit_doc] directly on the simproc command.
attribute [inherit_doc cancelIsoSimproc] cancelIso

end Mathlib.Tactic.CategoryTheory.CancelIso
```
You can save yourself some namespaces

**Review by JovanGerb — APPROVED** [review]
Thanks! I think that the slowdown (< 0.1%) is acceptable to have this as a globaly activated simproc.

maintainer merge

File: Mathlib/Tactic/CategoryTheory/CancelIso.lean [hunk 21]
```diff
@@ -0,0 +1,111 @@
...
+public import Mathlib.CategoryTheory.Iso
+
+/-!
+# Simproc for canceling morphisms with their inverses
+
+This module implements the `cancelIso` simproc, which triggers on expressions of the form `f ≫ g`.
+
+If `g` is not a composition itself, it checks whether `f` is inverse to `g`,
+by checking if `f` has an `IsIso` instance, and then running `push inv` on `inv f` and on `g`.
+If the check succeeds, then `f ≫ g` is rewritten to `𝟙 _`.
```
Comment (Vierkantor) [inline Mathlib/Tactic/CategoryTheory/CancelIso.lean]: Let's mention here that we assume `f` is not a composition (since `Category.assoc` is a `@[simp]` lemma?).

File: Mathlib/Tactic/CategoryTheory/CancelIso.lean [hunk 22]
```diff
@@ -0,0 +1,111 @@
...
+
+If `g` is of the form `h ≫ k`, the procedure instead checks if `f` and `h` are inverses to each
+other, and the procedure rewrites `f ≫ g ≫ h` to `h` if that is the case.
```
Comment (Vierkantor) [inline Mathlib/Tactic/CategoryTheory/CancelIso.lean]: Let's use variables consistently:
```suggestion
If `g` is of the form `h ≫ k`, the procedure instead checks if `f` and `h` are inverses to each
other, and the procedure rewrites `f ≫ h ≫ k` to `k` if that is the case.
```

File: Mathlib/Tactic/CategoryTheory/CancelIso.lean [hunk 23]
```diff
@@ -0,0 +1,111 @@
...
+This is useful as simp-normal forms in category theory are right-associated.
```
Comment (Vierkantor) [inline Mathlib/Tactic/CategoryTheory/CancelIso.lean]: I'm not sure how to parse this sentence, do you mean "This is useful as simp-normal forms in category theory, since `≫` is right-associative."?

File: Mathlib/Tactic/CategoryTheory/CancelIso.lean [hunk 24]
```diff
@@ -0,0 +1,111 @@
...
+
+For instance, the simproc will successfully rewrite expressions such as
+`F.map (G.map (inv (H.map (e.hom)))) ≫ F.map (G.map (H.map (e.inv)))` to `𝟙 _`
+because `CategoyTheory.Functor.map_inv` is a `@[push ←]` lemma, and
+`CategoyTheory.IsIso.Iso.inv_hom` is a `[push]` lemma.
```
Comment (Vierkantor) [inline Mathlib/Tactic/CategoryTheory/CancelIso.lean]: Consistency:
```suggestion
`CategoyTheory.IsIso.Iso.inv_hom` is a `@[push]` lemma.
```

File: Mathlib/Tactic/CategoryTheory/CancelIso.lean (hunk 21 above)
Comment (Vierkantor) [inline Mathlib/Tactic/CategoryTheory/CancelIso.lean:20]:
```suggestion
If the results of `push inv` are equal, then `f ≫ g` is rewritten to `𝟙 _`.
```

File: Mathlib/Tactic/CategoryTheory/CancelIso.lean (hunk 22 above)
Comment (Vierkantor) [reply Mathlib/Tactic/CategoryTheory/CancelIso.lean]: I suppose the case that `f` is inverse to `h ≫ k` or that `f ≫ h` is inverse to `k` are not handled, since it is hard to generalize to even larger compositions? (In other words, for such cases we'd have to write custom `@[simp]` lemmas.)

File: Mathlib/Tactic/CategoryTheory/CancelIso.lean [hunk 25]
```diff
@@ -0,0 +1,111 @@
...
+    (f : x ⟶ y) [IsIso f] (g : y ⟶ x) (h : inv f = g) {z : C} (k : x ⟶ z) : f ≫ g ≫ k = k := by
+  rw [← h]
+  exact IsIso.hom_inv_id_assoc f k
+
+/-- Given expressions `C x y z f g` assumed to represent
+composable morphisms `f : x ⟶ y` and `g : y ⟶ z` in a category `C`,
+check if `g` is equal to the inverse of `f` by
+1. first checking the objects match (i.e x = z).
+2. Checking that `f` is an isomorphism by synthesizing an `IsIso` instance for it
+3. running `push inv` on both `f` and `g`, and checking that the results are equal.
```
Comment (Vierkantor) [inline Mathlib/Tactic/CategoryTheory/CancelIso.lean]: More accurate would be:
```suggestion
2. Checking that `f` is an isomorphism by looking for an `IsIso` instance allowing us to write `inv f`.
3. running `push inv` on both `inv f` and `g`, and checking that the results are equal.
```

File: Mathlib/Tactic/CategoryTheory/CancelIso.lean [hunk 26]
```diff
@@ -0,0 +1,111 @@
...
+  -- Check if the "inv"-normal forms match
+  unless ← withNewMCtxDepth (isDefEq pushed_inv.expr pushed_g.expr) do return none
+  -- builds and return the proof of `inv f = g`.
+  return ← mkEqTrans
+    (← pushed_inv.proof?.getDM (mkEqRefl inv_f))
+    (← (← pushed_g.proof?.mapM mkEqSymm).getDM (mkEqRefl g))
+
+/-- The `cancelIso` simproc triggers on expressions of the form `f ≫ g`.
+
+If `g` is not a composition itself, it checks whether `f` is inverse to `g`
```
Comment (Vierkantor) [inline Mathlib/Tactic/CategoryTheory/CancelIso.lean]: Please apply the fixes to the module docs to this docstring too.

File: Mathlib/Tactic/CategoryTheory/CancelIso.lean [hunk 27]
```diff
@@ -0,0 +1,111 @@
...
+  let pushed_inv ← Push.pushCore (.const ``CategoryTheory.inv) {} none inv_f
+  let pushed_g ← Push.pushCore (.const ``CategoryTheory.inv) {} none g
+  -- Check if the "inv"-normal forms match
+  unless ← withNewMCtxDepth (isDefEq pushed_inv.expr pushed_g.expr) do return none
+  -- builds and return the proof of `inv f = g`.
+  return ← mkEqTrans
+    (← pushed_inv.proof?.getDM (mkEqRefl inv_f))
+    (← (← pushed_g.proof?.mapM mkEqSymm).getDM (mkEqRefl g))
+
+/-- The `cancelIso` simproc triggers on expressions of the form `f ≫ g`.
```
Comment (Vierkantor) [inline Mathlib/Tactic/CategoryTheory/CancelIso.lean]: The first line of a docstring should summarize the use of a definition/tactic/simproc, so the reader can decide quickly whether something applies to their own situation.

```suggestion
/-- `cancelIso` simplifies the composition of a morphism and its inverse, given an expression of the form `f ≫ g`.
```

**Review by Vierkantor — COMMENTED** [review]
The implementation looks good, nice idea! But the documentation needs some refinement.

File: Mathlib/Tactic/CategoryTheory/CancelIso.lean (hunk 22 above)
Comment (robin-carlier) [reply Mathlib/Tactic/CategoryTheory/CancelIso.lean]: You are right, this is not supported as is and in cases like this we would still need custom `@[simp]` lemmas, but I think in practice there isn’t that many situations in which this would happen (most instances of this I can think of would not be in simp normal form.)

File: Mathlib/Tactic/CategoryTheory/CancelIso.lean (hunk 23 above)
Comment (robin-carlier) [reply Mathlib/Tactic/CategoryTheory/CancelIso.lean]: Right, I’ll change it to:
```suggestion
This is useful as `f ≫ (g ≫ h)` is in simp-normal form and does not contain `f ≫ g` directly as a subterm.
```

File: Mathlib/Tactic/CategoryTheory/CancelIso.lean [hunk 28]
```diff
@@ -0,0 +1,111 @@
...
+    (← (← pushed_g.proof?.mapM mkEqSymm).getDM (mkEqRefl g))
+
+/-- `cancelIso` simplifies the composition of a morphism and its inverse, given an expression of the form `f ≫ g`.
+
+If `g` is not a composition itself, it checks whether `f` is inverse to `g`
+by checking if `f` has an `IsIso` instance and then by running `push inv` on `inv f` and on `g`.
+If the check succeeds, then `f ≫ g` is rewritten to `𝟙 _`.
+
+If `g` is of the form `h ≫ k`, the procedure instead checks if `f` and `h` are inverses to each
+other, and the procedure rewrites `f ≫ g ≫ h` to `h` if that is the case.
```
Comment (adamtopaz) [inline Mathlib/Tactic/CategoryTheory/CancelIso.lean]:
```suggestion
If `g` is of the form `h ≫ k`, the procedure instead checks if `f` and `h` are inverses to each
other, and the procedure rewrites `f ≫ h ≫ k` to `k` if that is the case.
```

File: Mathlib/Tactic/CategoryTheory/CancelIso.lean [hunk 29]
```diff
@@ -0,0 +1,111 @@
...
+`F.map (G.map (inv (H.map (e.hom)))) ≫ F.map (G.map (H.map (e.inv)))` to `𝟙 _`
+because `CategoyTheory.Functor.map_inv` is a `@[push ←]` lemma, and
+`CategoyTheory.IsIso.Iso.inv_hom` is a `[push]` lemma.
+
+This procedure is mostly intended as a post-procedure: it will work better if `f` and `g`
+have already been traversed beforehand. -/
+def cancelIsoSimproc : Simp.Simproc := fun e => do
+  let_expr CategoryStruct.comp C instCat x y t f g := e | return .continue
+  match_expr g with
+  -- Right_associated expressions needs their own logic.
```
Comment (adamtopaz) [inline Mathlib/Tactic/CategoryTheory/CancelIso.lean]:
```suggestion
  -- Right-associated expressions needs their own logic.
```

File: Mathlib/Tactic/CategoryTheory/CancelIso.lean (hunk 28 above)
Comment (robin-carlier) [reply Mathlib/Tactic/CategoryTheory/CancelIso.lean]: Woops, a I messed up and reverted a suggestion about this I accepted earlier. Sorry.

File: Mathlib/Tactic/CategoryTheory/CancelIso.lean [hunk 30]
```diff
@@ -0,0 +1,117 @@
...
+
+If `g` is of the form `h ≫ k`, the procedure instead checks if `f` and `h` are inverses to each
+other, and the procedure rewrites `f ≫ h ≫ k` to `k` if that is the case.
+This special case is useful as `f ≫ (h ≫ k)` is in simp-normal form and does not
+contain `f ≫ g` directly as a subterm.
+
+For instance, the simproc will successfully rewrite expressions such as
+`F.map (G.map (inv (H.map (e.hom)))) ≫ F.map (G.map (H.map (e.inv)))` to `𝟙 _`
+because `CategoyTheory.Functor.map_inv` is a `@[push ←]` lemma, and
+`CategoyTheory.IsIso.Iso.inv_hom` is a `@[push]` lemma.
```
Comment (adamtopaz) [inline Mathlib/Tactic/CategoryTheory/CancelIso.lean]:
```suggestion
because `CategoryTheory.Functor.map_inv` is a `@[push ←]` lemma, and
`CategoryTheory.IsIso.Iso.inv_hom` is a `@[push]` lemma.
```

**Review by adamtopaz — COMMENTED** [review]
LGTM!

Feel free to merge after the typo is fixed :)

bors d+

**Comment by robin-carlier** [comment]
Thanks everyone for the reviews!

bors r+

**Comment by robin-carlier** [comment]
Let’s try again,

bors r+
